US09326515B2
To a solution of 3-[(Z)-{[(2-amino-1,3-thiazol-4-yl)methoxy]imino}(phenyl)methyl]-2-methyl-1,2,4-oxadiazol-5(2H)-one (100 mg, 0.277 mmol, 1 eq.) in acetonitrile (2 ml) was added 4-fluorophenylcarbonochloridate (0.040 mL, 0.304 mmol, 1.1 eq.), followed by pyridine (0.022 mL, 0.277 mmol, 1 eq.) and stirring was allowed for 2 hours at room temperature. Cyclohexanol (0.032 mL, 0.304 mmol, 1.1 eq.) was then added and the resulting mixture was refluxed for 15 h. After concentration, the residue was purified by chromatography on silica gel to give Cyclohexyl {4-[({[(Z)-(3-methoxyphenyl)(2-methyl-5-oxo-2,5-dihydro-1,2,4-oxadiazol-3-yl)methylene]amino}oxy)methyl]-1,3-thiazol-2-yl}carbamate (110 mg, 77% yield) as a white solid.

reactant | 3-[(Z)-{[(2-amino-1,3-thiazol-4-yl)methoxy]imino}(phenyl)methyl]-2-methyl-1,2,4-oxadiazol-5(2H)-one | 0.277 mmol, 100 mg, 1 eq. | NC=1SC=C(N1)CO\N=C(/C=1N(OC(N1)=O)C)\C1=CC=CC=C1 | C14H13N5O3S
reactant | 4-fluorophenylcarbonochloridate | 0.304 mmol, 0.040 mL, 1.1 eq. | FC1=CC=C(C=C1)[ClH]C([O-])=O
reactant | pyridine | 0.277 mmol, 0.022 mL, 1 eq. | N1=CC=CC=C1 | C5H5N
reactant | Cyclohexanol | 0.304 mmol, 0.032 mL, 1.1 eq. | C1(CCCCC1)O | C6H12O
reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
product | Cyclohexyl {4-[({[(Z)-(3-methoxyphenyl)(2-methyl-5-oxo-2,5-dihydro-1,2,4-oxadiazol-3-yl)methylene]amino}oxy)methyl]-1,3-thiazol-2-yl}carbamate | 110 mg, 77% yield | COC=1C=C(C=CC1)/C(/C=1N(OC(N1)=O)C)=N/OCC=1N=C(SC1)NC(OC1CCCCC1)=O | C22H25N5O6S
